### PR TITLE
[Merged by Bors] - feat(Algebra/BigOperators/Ring/Finset): `to_dual` for `prod_one_add_ordered` and friends

### PR DESCRIPTION
**Pull request by JovanGerb**
Use `to_dual` to create duals for `prod_one_add_ordered`/`tprod_one_add_ordered` and friends.

The name doesn't differentiate which version it is, so I've added a prime to the dual versions.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Filter/AtTopBot/Finset.lean [hunk 1]
```diff
@@ -75,21 +75,18 @@ theorem tendsto_finset_powerset_atTop_atTop : Tendsto (Finset.powerset (α := α
...
   exact Finset.mem_powerset.mpr <| (Finset.le_sup_of_le hv fun _ h ↦ h).trans hu
 
+@[to_dual tendsto_finset_Ici_atBot_atTop]
 theorem tendsto_finset_Iic_atTop_atTop [Preorder α] [LocallyFiniteOrderBot α] :
     Tendsto (Finset.Iic (α := α)) atTop atTop := by
   rcases isEmpty_or_nonempty α with _ | _
   · exact tendsto_of_isEmpty
   by_cases h : IsDirectedOrder α
-  · refine tendsto_atTop_atTop.mpr fun s ↦ ?_
+  · refine (tendsto_iInf.trans <| forall_congr' fun _ => tendsto_atTop_principal).mpr fun s ↦ ?_
```
Comment (JovanGerb) [inline Mathlib/Order/Filter/AtTopBot/Finset.lean:84]: Unfortunately, `to_dual` doesn't work on `tendsto_atTop_atTop` here, because it wants to turn it into `tendsto_atBot_atBot`, but it has to translate only one of the `atTop`s to an `atBot`.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
